US04683306
Preparation of N-(2-pyridyl)-4-(benzenesulfonyl)-2-methyl-2H-1,2-benzothiazine-3-carboxamide 1,1-dioxide
1.29 g (0.005 mole) 3,4-dihydro-2-methyl-4-oxo-2H-1,2-benzothiazine-3-carboxylic acid 1,1-dioxide and 4.18 ml triethylamine were dissolved in 15 ml tetrahydrofuran and the mixture cooled to -5° C. and 1.91 ml benzenesulfonyl chloride was added slowly to the stirred mixture and stirred, and after one hour 0.52 g 2-aminopyridine was added to the mixture. The temperature of the mixture was raised slowly to ambient temperature and stirred for 4 hours, and twice the volume of ice water was added to the mixture to form precipitates. The obtained precipitates were filtered and recrystallized in ethanol and ethylether to obtain 1.6 g of the title compound. Yield: 68%. m.p 192°-195° C.

reactant | 3,4-dihydro-2-methyl-4-oxo-2H-1,2-benzothiazine-3-carboxylic acid 1,1-dioxide | 0.005 mole, 1.29 g | CN1S(C2=C(C(C1C(=O)O)=O)C=CC=C2)(=O)=O | C10H9NO5S
reactant | triethylamine | 4.18 ml | C(C)N(CC)CC | C6H15N
reactant | benzenesulfonyl chloride | 1.91 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | 2-aminopyridine | 0.52 g | NC1=NC=CC=C1 | C5H6N2
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | N-(2-pyridyl)-4-(benzenesulfonyl)-2-methyl-2H-1,2-benzothiazine-3-carboxamide 1,1-dioxide | 1.6 g, Yield: 68% | N1=C(C=CC=C1)NC(=O)C=1N(S(C2=C(C1S(=O)(=O)C1=CC=CC=C1)C=CC=C2)(=O)=O)C | C21H17N3O5S2
